US05652093
5× SSC (0.75M NACl, 0.075M sodium citrate); 30% Formamide (v/v); 3% Triton X-100 (v/v) (Triton X-100 is an alcohol derivative of polyoxyethylene ether, see Aldrich Chemical Co. catalogue for 1990-91); 0.4M Guanidine isothiocyanate; 0.16M sodium phosphate buffer (pH 6); 15× Ficoll/PVP (polysucrose 400,000 mol wt/polyvinyl pyrrolidone); 1 mg/ml Sheared Salmon Sperm DNA; 10 mM EDTA; 25 mM DTT; 5% PEG 4000. In the foregoing, 500× Ficoll/PVP is 5 g of Ficoll type 400 (polysucrose 400,00 mol wt) plus 5 g of PVP (polyvinylpyrrolidone) dissolved in water to a total volume of 100 ml; 15× Ficoll/PVP indicates that 500× Ficoll/PVP has been diluted by a factor of 15/500 with water. Ficoll (Pharmacia) is a nonionic synthetic polymer of sucrose. A stock solution of 0.1 mg/ml FITC in dimethylformamide was prepared. It was added to the HC in a quantity to produce a final concentration of FITC in the HC of 2 μg/ml.

reactant | sodium citrate | 0.075M | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | Formamide | C(=O)N | CH3NO
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | polyoxyethylene ether | O(CC[*:2])[*:1].CCOCC
reactant | Guanidine isothiocyanate | 0.4M | [N-]=C=S.NC(=N)N
reactant | sodium phosphate | 0.16M, pH 6 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | EDTA | 10 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | DTT | 25 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | polysucrose | 400,00 mol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | FITC | C1=CC2=C(C=C1N=C=S)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O | C21H11NO5S
